* Title: Simple circuit
.options savecurrents

*Voltage source
vs 1 0 dc 0

*Capacitor voltage source
vx 6 8 dc {5.559056e+00 + 2.84482e+00}

*Resistor
r1 1 2 1.03301019518k
r2 3 2 2.0748608676k
r3 2 5 3.05514376545k
r4 5 0 4.15047871791k
r5 5 6 3.02449899207k
r6 0 7 2.08776908673k
vr6 7 9 dc 0
r7 9 8 1.03338176153k

*VCCS
g1 6 3 2 5 7.32769926486m

*CCVS
h1 5 8 vr6 8.37701206687k

.control
op
echo  "op_TAB"
print all
echo  "op_END"

quit
.endc

.end

